US07129021B2
Silver Sulfamerazine was prepared using 26.43 g sulfamerazine, 300 ml of water, 4.00 grams of NaOH warming to 70 degree C. until dissolved. 16.99 grams of silver nitrate in 300 grams of water with 1 drop of 10% nitric acid and warming to 70 degree C. The sulfamerazine solution was added to the silver nitrate solution with stirring. Silver sulfamerazine precipitated as a fine white powder. This was filtered and washed three times with water and dried overnight at 60 deg to give an off-white powder.

reactant | sulfamerazine | 26.43 g | CC=1C=CN=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N | C11H12N4O2S
reactant | NaOH | 4.00 grams | [OH-].[Na+]
reactant | silver nitrate | 16.99 grams | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 300 grams | O | H2O
catalyst | nitric acid | 1 drop | [N+](=O)(O)[O-] | HNO3
solvent | water | 300 ml | O | H2O
product | Silver Sulfamerazine | [Ag].CC=1C=CN=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N | InChI=1S/C11H12N4O2S.Ag/c1-8-6-7-13-11(14-8)15-18(16,17)10-4-2-9(12)3-5-10;/h2-7H,12H2,1H3,(H,13,14,15);
